US08895745B2
To a suspension of NaH (0.4 g, 10 mmol) in THF (20 ml) at 0° C. was added 4-hydroxytetrahydropyran (1.02 ml, 10 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 30 mins before 4-bromo-2-chloropyridine (0.89 ml, 8.0 mmol) was added dropwise. The reaction mixture was stirred for 18 h before being quenched with EtOH (1 ml), partitioned between CH2Cl2 and H2O and extracted CH2Cl2 (×2). The organics were combined, dried (MgSO4) and the solvent removed in vacuo. Purified by column chromatography to afford 4-bromo-2-(tetrahydro-pyran-4-yloxy)-pyridine MS: [MH]+ 258, 260

reactant | NaH | 10 mmol, 0.4 g | [H-].[Na+]
reactant | 4-hydroxytetrahydropyran | 10 mmol, 1.02 ml | OC1CCOCC1 | C5H10O2
reactant | 4-bromo-2-chloropyridine | 8.0 mmol, 0.89 ml | BrC1=CC(=NC=C1)Cl | C5H3BrClN
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-bromo-2-(tetrahydro-pyran-4-yloxy)-pyridine | BrC1=CC(=NC=C1)OC1CCOCC1 | C10H12BrNO2
